US09056858B2
An oven dried 2 L round-bottom flask equipped with a mechanical stirrer is charged with anhydrous THF (750 mL) followed by Ti(Oi-Pr)4 (72.8 mL, 246 mmol) under Ar atmosphere. The solution is purged under Ar and heated to 50° C. 6-Bromo-nicotinonitrile (30.0 g, 164 mmol) is added to the mixture followed by dropwise addition (over 40 minutes) of 1M solution of ethylmagnesium bromide in THF (410 mL, 410 mmol). The reaction is allowed to stir at 50° C. After 3 hours, the reaction mixture is cooled to room temperature and a 3M aqueous solution of HCl (approx 350 mL) is added. The mixture is transfered to a separatory funnel and is washed with ethyl ether (3×500 mL). The aqueous layer is allowed to stand overnight. The aqueous layer is then basified to pH 10 with 2M aqueous solution of NaOH. The solution is diluted with EtOAc (500 mL) and the resulting solution is vigorously stirred for 5 minutes. The solution is allowed to stand while the layers slowly separated. The organic layer is decanted and the same extraction process is repeated twice. The organic layers are combined, washed with brine (50 mL), dried over MgSO4 and concentrated in vacuo to yield an oil. The crude oil is purified by silica gel chromatography using a gradient of 0-10% MeOH in CH2Cl2 to afford 1-(6-bromo-pyridin-3-yl)-cyclopropylamine as an oil, which slowly crystallizes (ES+ m/z 213.3, 215.3).

reactant | 6-Bromo-nicotinonitrile | 164 mmol, 30.0 g | BrC1=NC=C(C#N)C=C1 | C6H3BrN2
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | THF | 410 mmol, 410 mL | C1CCOC1 | C4H8O
solvent | HCl | approx 350 mL | Cl | ClH
product | 1-(6-bromo-pyridin-3-yl)-cyclopropylamine | BrC1=CC=C(C=N1)C1(CC1)N | C8H9BrN2
